Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
Cardiac catheterization ___

 
History of Present Illness:
___ presents from PCP for evaluation of tearing chest pain 
radiating to the back. Pain radiates to the jaw. Day prior to 
admission, while at work, pain was radiating to the back. Took 
advil with relief.  Chest pain worsens when talking/moving. She 
has had intermittent excertional cp for months. ETT found to be 
normal in the past month, however was limited and could not 
finish it. EGD - Hpylori+ - s/p partial treatment only. Has had 
limited eating. Eating triggers the chest pain.  Denies 
vomiting, abd pain, diarrhea, dysuria. No ___ edema or hx of 
blood clots. No recent travel. No fhx of blood clots. Took ASA 
81 today. ASA 243 en route. Sleeps normally on 3 pillow. 

EKG nsr LAD, no STE
Vitals in the ED: 99.9 87 140/69 18 98% RA   
Labs Significait for: Normal UA, TNT <0.01 x2, BUN/Cr of ___, 
lactate of 2.2, WNL of CBC.

Under the care of ___ she underwent Nuclear Stress which 
showed: Moderate reversible perfusion defect in the basal 
portion of 
the inferior wall. 2) Normal ventricular cavity size, normal 
wall motion, and normal function with ejection fraction of 68% 
She was made NPO for cath
She Had fever of 100.8 in ED, UA negative, CTA did not identify 
pneumonia or PE.

Patient subsequently went to cath lab and had right RCA stent 
placed.

On floor patient reports her CP has lessened considerably.  

REVIEW OF SYSTEMS: On review of systems, denies any prior 
history of stroke, TIA, deep venous thrombosis, pulmonary 
embolism, bleeding at the time of surgery, myalgias, joint 
pains, cough, hemoptysis, black stools or red stools. Denies 
recent fevers, chills or rigors. Denies exertional buttock or 
calf pain. All of the other review of systems were negative.  

Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
ankle edema, palpitations, syncope or presyncope.  

 
Past Medical History:
- DM2
- BPPV
- HTN
- TIA in ___ with aphasia

 
Social History:
___
Family History:
mother died at age ___ of CAD/CHF, father died at age ___ of "old 
age", no hx of strokes in the family
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: 99.2, 118/64, 73, 16, 98% RA 
GENERAL: obese woman lying in bed flat but comfortable and in 
NAD. Oriented x3. Mood, affect appropriate.  
HEENT: PERRL, EOMI. MM dry.  
NECK: Supple without JVD.  
CARDIAC: RRR, normal S1, S2. S4 heard best at apex. No 
murmurs/rubs. No thrills, lifts. 
LUNGS: CTAB over anterior and lateral lung fields.  
ABDOMEN: Soft, NTND.  
EXTREMITIES: No c/c/e. PD pulses +2  

DISCHARGE PHYSICAL EXAM:
VS:   98.7, 90-119/47-54 69-71 20 96-98% on r/a
Weight 69.5 kg, I: ___, O: BRP
General: obese woman lying in bed flat but comfortable and in 
NAD. Oriented x3. Mood, affect appropriate.  
HEENT: PERRL, EOMI. MMM.  
NECK: Supple without JVD.  
CARDIAC: RRR, normal S1, S2. S4 heard best at apex. No 
murmurs/rubs. No thrills, lifts. 
LUNGS: CTAB over anterior and lateral lung fields.  
ABDOMEN: Soft, NTND.  
EXTREMITIES: No c/c/e. PD pulses +2  
 
Pertinent Results:
ADMISSION LABS:

___ 04:07PM BLOOD WBC-5.4 RBC-4.08 Hgb-12.7 Hct-38.3 MCV-94 
MCH-31.1 MCHC-33.2 RDW-14.4 RDWSD-49.3* Plt ___
___ 04:07PM BLOOD Neuts-84.0* Lymphs-9.2* Monos-4.5* 
Eos-1.9 Baso-0.0 Im ___ AbsNeut-4.50# AbsLymp-0.49* 
AbsMono-0.24 AbsEos-0.10 AbsBaso-0.00*
___ 04:07PM BLOOD Glucose-116* UreaN-21* Creat-1.2* Na-138 
K-2.9* Cl-96 HCO3-28 AnGap-17
___ 04:07PM BLOOD proBNP-45
___ 04:07PM BLOOD cTropnT-<0.01
___ 10:43PM BLOOD cTropnT-<0.01
___ 05:55AM BLOOD Calcium-8.5 Phos-5.1* Mg-1.6
___ 04:14PM BLOOD Lactate-2.2*

IMAGING / STUDIES:
CTA ___:
FINDINGS:  
The aorta is unremarkable without dissection or aneurysm. Great 
vessels are unremarkable.  The pulmonary arteries are well 
opacified to the subsegmental level without filling defect to 
suggest pulmonary embolism. Pulmonary arteries are normal in 
caliber. 
Minimal bibasilar atelectasis is noted.  There is no pleural 
effusion or pneumothorax. The airways are patent to the 
subsegmental level. 
Heart is unremarkable aside from coronary calcifications.  There 
is no 
pericardial effusion.  There is no supraclavicular, mediastinal, 
or hilar 
lymphadenopathy.  A prominent right axillary lymph node is 
noted, measuring 1 cm in short axis.  Borderline right hilar 
lymph node measures 9 mm (3:92). 
The thyroid is enlarged.  A large left sided thyroid nodule with 
coarse 
calcifications within is seen.  The nodule measures 
approximately 2.2 x 2.6 cm. 
Included portion of the upper abdomen is unremarkable.  Small 
hiatal hernia is noted. 
No lytic or blastic osseous lesion suspicious for malignancy is 
identified. There is no fracture.  
IMPRESSION:  
1. No evidence of pulmonary embolism or aortic abnormality. 
2.  Left-sided thyroid nodule. 

CARDIAC PERFUSION PHARM / STRESS ___
IMPRESSION:   1) Moderate reversible perfusion defect in the 
basal portion of the inferior wall. 2) Normal ventricular cavity 
size, normal wall motion, and normal function with ejection 
fraction of 68%. 
IMPRESSION: Anginal type symptoms with non-specific ST segment 
changes. 
Nuclear report sent separately. 

CARDIAC CATH ___:
IMPRESSIONS: 
 -Sever RCA and moderate LAD disease.
- Successful PCI of the RCA.
** for full details please see cath report from ___ **

EKG ___:
Sinus rhythm with short P-R interval but no evident 
pre-excitaton. There are non-specific ST-T wave abnormalities. 
Compared to the previous tracing  of ___ there are no 
significant changes. 
  Intervals                           Axes 
Rate PR  QRS QT   QTc (___)     P  QRS  T 
86   118 82  388  433              44 -1  111 
 

DISCHARGE LABS:
___ 06:30AM BLOOD WBC-4.8# RBC-3.86* Hgb-11.5 Hct-36.7 
MCV-95 MCH-29.8 MCHC-31.3* RDW-14.5 RDWSD-50.5* Plt ___
___ 05:05PM BLOOD ___ PTT-37.2* ___
___ 06:30AM BLOOD Glucose-126* UreaN-13 Creat-1.0 Na-142 
K-4.4 Cl-103 HCO3-30 AnGap-13
___ 06:30AM BLOOD Calcium-9.1 Phos-3.0# Mg-2.___ with PMH of DM, HTN, HLD who was sent in from the PCP for 
evaluation of chest pain, found to have positive stress test.

# Coronary artery disease: Patient presented with chest pain and 
negative trops ___ yet still had positive stress test and culprit 
lesion noted in RCA. She was taken to cath and found to have 
severe RCA disease with moderate LAD disease. DES was placed in 
the RCA. She was started on aspirin and Plavix to be continued 
for ___ year minimum. Her statin was switched to atorvastatin 80mg 
and the reminder of her home medications were continued.  

# Diabetes mellitus: Patient with history of DM, on insulin 
sliding scale in house and discharged on home metformin. 

# GERD: Patient was on pantoprazole 40 mg bid dosing, likely 
secondary to her complaint that her chest pain got worse with 
food. Found to have ischemic disease and discharged on 
omeprazole 20mg daily. Consider down titrating this as 
outpatient.

# HTN: Continued home valsartan and HCTZ but upon restarting was 
hypokalemic so HCTZ was reduced to valsartan-hydrochlorothiazide 
160-12.5 mg. Please follow up BP upon discharge. Consider beta 
blocker as outpatient for further cardio-protection. 

# Hypokalemia: patient with history of hypokalemia, was 
hypokalemic post cath to 2.9. Patient remained asymptomatic and 
was repleated. Possibly secondary to HCTZ, decreased to 12.5 
upon discharge. Please follow up and consider changing 
antihypertensive if not tolerant. 

TRANSITIONAL ISSUES:
# Discharged on new clopidogrel and changed from pantoprazole to 
omeprazole 
# Please follow-up potassium levels and BP now that HCTZ has 
been decreased
# Outpatient cardiologist to please provide referral for 
outpatient cardiac rehab
# Follow up incidental left thyroid nodule found on CTA.
# CODE: Full Code
# CONTACT: ___ (daughter) ___ / ___ 
(daughter) ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Meclizine 12.5 mg PO Q12H:PRN dizziness 
2. MetFORMIN (Glucophage) 1000 mg PO BID 
3. Pantoprazole 40 mg PO Q12H 
4. Simvastatin 20 mg PO QPM 
5. valsartan-hydrochlorothiazide 160-25 mg oral DAILY 
6. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Meclizine 12.5 mg PO Q12H:PRN dizziness 
3. Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
4. Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
5. MetFORMIN (Glucophage) 1000 mg PO BID 
6. valsartan-hydrochlorothiazide 160-12.5 mg oral DAILY 
RX *valsartan-hydrochlorothiazide [Diovan HCT] 160 mg-12.5 mg 1 
tablet(s) by mouth daily Disp #*30 Tablet Refills:*0
7. Omeprazole 20 mg PO DAILY 
RX *omeprazole 20 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
8. Outpatient Lab Work
Labs: chemistry panel (Na, K, BUN, Cr)
ICD-9:  401.9
Name: ___ Phone: ___ Fax: 
___ 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
- Unstable angina

SECONDARY DIAGNOSES
- hypokalemia
- CAD
- hypertension
- diabetes mellitus 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
It was a pleasure caring for you here at ___ 
___. You came to us for cardiac catheterization after 
experiencing chest pain that radiated to your back and jaw. You 
were found to have a blockage in one of your arteries and got a 
stent placed to open it. You were placed on a few new 
medications and should take them as prescribed below. 

We decreased the dose of your hydrochlorothiazide, a diuretic, 
because we were concerned that it was leading to recurrent low 
potassium levels. You should follow-up with your primary care 
provider this week to check your electrolyte panel and make sure 
your potassium is okay, and to check your blood pressure since 
we changed this medication. 

You also need to establish care with a Cardiologist. You should 
follow-up with a new cardiologist within ___ weeks of discharge. 
They can help set you up for outpatient cardiac rehabilitation.

Thank you for choosing ___ for your healthcare needs.
Sincerely,
Your ___ Team
 
Followup Instructions:
___